* D:\Univsersity\2021-3rd Year S2\Design (E) - 344\GitRepo\E344\LTspice\E344_23252162_A1.asc
V1 N001 0 PWL file=PowerSupplyPWL.csv
RSenseLoad VLoad N003 1m
RSenseSupply N001 VSupply 1m
C1 N003 0 10m IC=0
V2 LoadOn 0 PWL file=ChargeOnPWL.csv
XM1 N004 N002 VSupply irf9z24n irf9z24n
M2 N002 LoadOn 0 0 2N7002
D1 N004 VLoad 1N5819
R1 VSupply N002 500
R2 LoadOn 0 10k
.model D D
.lib C:\Users\Altus\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Altus\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {transtop} 0 {timestep}
.include A1cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name.\n  * Use only VSupply for power.\n  * Use LoadOn to control charging.\n  * Use VLoad as the positive terminal of the load.
* Config file:
* Analysis setup:
* Load
* Power\nsupply
* =============================\nREPLACE WITH YOUR DETAILS\nAA. Cilliers.,  23252162\n=============================
.inc irf9z24n.lib
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.backanno
.end
