* D:\Univsersity\2021-3rd Year S2\Design (E) - 344\GitRepo\E344\LTspice\A7\Draft1.asc
D1 P001 N001 1N5819
V1 N001 0 5
R1 0 P001 1k
.model D D
.lib C:\Users\Altus\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5
.backanno
.end
