* D:\Univsersity\2021-3rd Year S2\Design (E) - 344\GitRepo\E344\LTspice\A3\E344_XXXXXXXX_A3 - Copy.asc
V1 VSupply 0 PWL file=PowerSupplyPWL.csv
RSenseBattery BatteryTerminal N004 1µ
Diode_A2 VSupply N001 1N5819
V3 N004 0 PWL file=BatteryPWL.csv
RSenseSupply N001 A2Output 1
R§QLoad A2Output 0 50
V2 N009 0 5
RSense5V N009 5V 1µ
XM1 A2Output N003 BatteryTerminal irf9z24n irf9z24n
M2 N003 N005 0 0 2N7002
XU2 N008 N007 5V 0 N005 LTC6078
XU4 N006 N007 5V 0 N007 LTC6078
R5 BatteryTerminal N002 100k
R6 N002 0 100k
R7 BatteryTerminal N003 100k
R8 N005 0 10k
R15 N006 0 15.789k
R16 5V N006 10k
R1 N008 N005 300k
R2 N002 N008 6000
.model D D
.lib C:\Users\Altus\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Altus\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {transtop} 0
.include A1cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only VSupply for power\n  * Use ChargeOn to control charging\n  * Use BatteryTerminal as your battery's \n          positive terminal
* Config file:
* Analysis setup:
* Power\nsupply
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\n=============================
.inc irf9z24n.lib
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LTC5.lib
.backanno
.end
